US04623376
Preparation of 3-amino-4-methyl-6-phenylpyridazine
A mixture of 3-fluoro-4-methyl-6-phenylpyridazine (1.0 g) and 50 mL of 28% aqueous NH4OH is heated in a pressure bottle to 95°-100° C. The reaction mixture is cooled and thereafter extracted with CH2Cl2. The organic materials are then extracted with 10% aqueous HCl. The acid phase is washed with CH2Cl2, cooled and basified with caustic. The resulting mixture is extracted several times with CH2Cl2. The organic extracts are then combined and dried with MgSO4 and the remaining liquid is concentrated to give 550 mg (56%) crude product as a yellow solid. Recrystallization from EtOH gives an analytically pure material melting at 132°-134° C.

reactant | 3-fluoro-4-methyl-6-phenylpyridazine | 1.0 g | FC=1N=NC(=CC1C)C1=CC=CC=C1 | C11H9FN2
reactant | NH4OH | 50 mL | [NH4+].[OH-]
product | 3-amino-4-methyl-6-phenylpyridazine | NC=1N=NC(=CC1C)C1=CC=CC=C1 | C11H11N3
